US08895571B2
Step B: ethyl 4-(bromomethyl)-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)pyrimidine-5-carboxylate
To a solution of ethyl 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-methylpyrimidine-5-carboxylate (1 g, 3.56 mmol) in carbon tetrachloride (20.0 mL) was added N-bromosuccinimide (697 mg, 3.92 mmol) and 2,2′-azo-bis-isobutyronitrile (30 mg, 0.2 mmol), and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was filtered, the filtrate was concentrated under reduced pressure, and the residue was purified by combi-flash chromatography to afford 0.78 g (61% yield) of the desired product. LC-MS found: 361.1 (M+H)+.

reactant | ethyl 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-methylpyrimidine-5-carboxylate | 3.56 mmol, 1 g | ClC=1C=NN(C1C1=NC=C(C(=N1)C)C(=O)OCC)C | C12H13ClN4O2
reactant | N-bromosuccinimide | 3.92 mmol, 697 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azo-bis-isobutyronitrile | 0.2 mmol, 30 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | ethyl 4-(bromomethyl)-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)pyrimidine-5-carboxylate | 0.78 g, 61% yield | BrCC1=NC(=NC=C1C(=O)OCC)C1=C(C=NN1C)Cl | C12H12BrClN4O2
